US08486984B2
5.3 N-[6-(4-Isopropyl-benzenesulfonylamino)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-propionamide
To a solution of N-(6-amino-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-propionamide (290 mg, 1.26 mmol) in pyridine (10 ml) at 0° C. 4-isopropyl-benzenesulfonyl chloride (280 mg, 1.26 mmol) was added. The mixture was stirred at 0° C. for 1 h and 16 h at room temperature. After evaporation under reduced pressure the obtained residue was partitioned between ethyl acetate and saturated aqueous NaHCO3. The organic layer was washed twice with saturated aqueous NaHCO3, dried over MgSO4, filtered and the solvent evaporated under reduced pressure to give the product as a brown resin (530 mg, 100%).

reactant | N-(6-amino-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl)-propionamide | 1.26 mmol, 290 mg | NC=1C=C2CCCC(C2=CC1)CNC(CC)=O | C14H20N2O
reactant | 4-isopropyl-benzenesulfonyl chloride | 1.26 mmol, 280 mg | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-[6-(4-Isopropyl-benzenesulfonylamino)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-propionamide | 530 mg, 100% | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C2CCCC(C2=CC1)CNC(CC)=O | C23H30N2O3S
